US06841671B2
Following the procedure for pyrimidinetrione formation outlined in Example 1, reaction of 1-[6-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester (200 mg, 0.44 mmol) with urea (0.080 g, 1.3 mmol) in 1.3 mL of 1M sodium ethoxide in ethanol afforded 25 mg of 1-[6-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-pyridin-3-yl]-1,7,9-triaza-spiro[4,5]decane-2,6,8,10-tetraone as a colorless solid. 1H NMR (CD3OD, 500 MHz): 9.02 (s, 1H), 8.14 (d, 2H, J=8.0 Hz), 8.06 (d, 1H, J=2.0 Hz), 7.78 (dd, 1H, J=2.5, 9.0 Hz), 7.35 (d, 2H, J=9.0 Hz), 7.12 (d, 1H, J=9.0 Hz), 2.74 (m, 2H), 2.66 (m, 2H) ppm. MS (APCl, m/z): 435 [M+H]+.

reactant | pyrimidinetrione | N=1C(NC(C(C1)=O)=O)=O | C4H2N2O3
reactant | 1-[6-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-pyridin-3-yl]-5-oxo-pyrrolidine-2,2-dicarboxylic acid diethyl ester | 0.44 mmol, 200 mg | C(C)OC(=O)C1(N(C(CC1)=O)C=1C=NC(=CC1)OC1=CC=C(C=C1)C=1OC=NN1)C(=O)OCC | C23H22N4O7
reactant | urea | 1.3 mmol, 0.080 g | NC(=O)N | CH4N2O
solvent | sodium ethoxide | 1M, 1.3 mL | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[6-(4-[1,3,4]oxadiazol-2-yl-phenoxy)-pyridin-3-yl]-1,7,9-triaza-spiro[4,5]decane-2,6,8,10-tetraone | 25 mg | O1C(=NN=C1)C1=CC=C(OC2=CC=C(C=N2)N2C(CCC23C(NC(NC3=O)=O)=O)=O)C=C1 | C20H14N6O6
